US07858621B2
3-(6-tert-Butyl-4-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-acrylamide
3-Fluoro-4-methanesulfonylaminobenzylamine hydrochloride (41.2 mg, 0.162 mmol) was reacted with 3-(6-tert-butyl-4-trifluoromethyl-pyridin-3-yl)-acrylic acid (1.0 eq, 44.2 mg) DMTMM (1.0 eq, 44.8 mg) and NMP (1.2 eq, 22 μl) in THF to give the title compound (48 mg, 62.6%) after purification by column chromatography (Hex/EtOAc=1/1).

reactant | 3-Fluoro-4-methanesulfonylaminobenzylamine hydrochloride | 0.162 mmol, 41.2 mg | Cl.FC=1C=C(CN)C=CC1NS(=O)(=O)C
reactant | 3-(6-tert-butyl-4-trifluoromethyl-pyridin-3-yl)-acrylic acid | 44.2 mg, 1.0 eq | C(C)(C)(C)C1=CC(=C(C=N1)C=CC(=O)O)C(F)(F)F | C13H14F3NO2
reactant | NMP | 22 μl, 1.2 eq | CN1CCCC1=O | C5H9NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-(6-tert-Butyl-4-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-acrylamide | 48 mg, 62.6% | C(C)(C)(C)C1=CC(=C(C=N1)C=CC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F)C(F)(F)F | C21H23F4N3O3S
